US06794395B1
(46) 3-(Z)-{1-[4-(N-dimethylaminomethylcarbonyl-N-methyl-amino)-anilino]-1-phenyl-methylidene}-5,6-methylenedioxy-2-indolinone
Prepared from 3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone and N-(dimethylaminomethylcarbonyl)-N-methyl-p-phenylenediamine

reactant | 3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone | COC(C1=CC=CC=C1)=C1C(NC2=CC3=C(C=C12)OCO3)=O | C17H13NO4
reactant | N-(dimethylaminomethylcarbonyl)-N-methyl-p-phenylenediamine | CN(C)CC(=O)N(C1=CC=C(C=C1)N)C | C11H17N3O
product | 3-(Z)-{1-[4-(N-dimethylaminomethylcarbonyl-N-methyl-amino)-anilino]-1-phenyl-methylidene}-5,6-methylenedioxy-2-indolinone | CN(C)CC(=O)N(C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC4=C(C=C23)OCO4)=O)C=C1 | C27H26N4O4
